US04022769
Substituting 17β,19-dihydroxy-4-androsten-3-one for the 17β,19-dihydroxy-1α-methyl-4-androsten-3-one above results in the preparation of 4-androstene-17β,19-diol.

reactant | 17β,19-dihydroxy-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(CO)[C@H]1CC2)=O | C19H28O3
reactant | 17β,19-dihydroxy-1α-methyl-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O | C20H30O3
product | 4-androstene-17β,19-diol | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CCCC[C@]3(CO)[C@H]1CC2)O | C19H30O2
